US06900354B2
d) 3-[4-(3-Fluoro-benzyloxy)-phenyl]-2-methyl-acrylamide
305 mg (1.07 mmol) of 3-[4-(3-fluoro-benzyloxy)-phenyl]-2-methyl-acrylic acid is dissolved in 8 ml of dichloromethane and one drop of dimethylformamide is added. The solution is cooled to 0° C. and treated dropwise with 676 mg (5.33 mmol) oxalyl chloride. The resulting solution is stirred at 0° C. for additional 30 minutes, then 2 hours at RT. Evaporation of the solvent leaves the crude acid chloride which is dissolved in 5 ml THF. This solution is slowly added under stirring to 10 ml of concentrated ammonia. The precipitate is filtered off and recrystallised from methanol to yield 199 mg (65%) of a colorless solid. MS: m/e=286.2 (M++H).

reactant | 3-[4-(3-fluoro-benzyloxy)-phenyl]-2-methyl-acrylic acid | 1.07 mmol, 305 mg | FC=1C=C(COC2=CC=C(C=C2)C=C(C(=O)O)C)C=CC1 | C17H15FO3
reactant | oxalyl chloride | 5.33 mmol, 676 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonia | 10 ml | N | H3N
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-[4-(3-Fluoro-benzyloxy)-phenyl]-2-methyl-acrylamide | 199 mg, 65% | FC=1C=C(COC2=CC=C(C=C2)C=C(C(=O)N)C)C=CC1 | C17H16FNO2
